US08466176B2
To a stirred solution of [3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone (5.62 g, 24 mmol) in dry pyridine (30 mL) was added hydroxylamine hydrochloride (4.17 g, 60 mmol). The reaction mixture was stirred at 70° C. for 5 h, then concentrated in vacuo and diluted with ethyl acetate (100 mL) and water (50 mL). The organic layer was separated, washed with water (50 mL) and dried over MgSO4. Evaporation of the solvent in vacuo afforded N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine as a yellow solid [6.91 g, yield 99.3%; HPLC/MS: m/z=250 (M+H); logP(HCOOH)=1.98].

reactant | [3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | 24 mmol, 5.62 g | CSC=1C=C(C=CC1)C(=O)C1=NN=NN1C | C10H10N4OS
reactant | hydroxylamine hydrochloride | 60 mmol, 4.17 g | Cl.NO
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine | yield 99.3% | ON=C(C1=NN=NN1C)C1=CC(=CC=C1)SC | C10H11N5OS
